US04529548
(B) (11β,17α)-9-Fluoro-11-hydroxy-17-(phenylthio)androsta-1,4-dien-3-one
To a stirred mixture of (11β,17α)-11-(acetyloxy)-9-fluoro-17-(phenylthio)androsta-1,4-dien-3-one (300 mg) in tetrahydrofuran (12.0 ml) and methanol (6.0 ml) (in a nitrogen atmosphere) was added 1.5 ml of a 12% sodium hydroxide solution. TLC (7:3, chloroform:ethyl acetate) taken after 1 hour showed the reaction to be complete. After a total of 1.5 hours at room temperature, the reaction was quenched with water and extracted with chloroform (3×50 ml). The chloroform extracts were pooled, dried over anhydrous magnesium sulfate and evaporated to a yellow oil. This was dissolved in 10.0 ml of boiling dichloromethane, cooled, and a few drops of petroleum ether were added. The solution was left in the freezer overnight, yielding fine, light green needle-like crystals (57 mg) of an analytical specimen with consistent spectral data and melting point 248°-252° C. (with decomposition).

reactant | (11β,17α)-11-(acetyloxy)-9-fluoro-17-(phenylthio)androsta-1,4-dien-3-one | 300 mg | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC[C@H]([C@@]2(C)C1)SC1=CC=CC=C1)=O)C)F | C27H31FO3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 12.0 ml | O1CCCC1 | C4H8O
solvent | methanol | 6.0 ml | CO | CH4O
product | (11β,17α)-9-Fluoro-11-hydroxy-17-(phenylthio)androsta-1,4-dien-3-one | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC[C@H]([C@@]1(C)C[C@@H]2O)SC2=CC=CC=C2)=O)C | C25H29FO2S
